US06019911
To 10 ml of a chloroform solution of 0.23 g (0.5 mmol) of the (R) 1-trifluoromethylpentyl 6-benzyloxy-3,4-dihydro-2-naphthalenecarboxylate obtained in the third step was added 0.1 ml (0.7 mmol) of iodotrimethylsilane in a nitrogen atmosphere with stirring, and the mixture was reacted at room temperature for two and a half hours with stirring. Then, 10 ml of methanol was added, and the mixture was rapidly concentrated at room temperature under reduced pressure. The concentrate was separated by column chromatography, to obtain 0.11 g of (R)1-trifluoromethylpentyl 6-hydroxy-3,4-dihydro-2-naphthalenecarboxylate as a white solid (yield: 61%). The 1H-NMR data of this compound are described below.

reactant | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
reactant | 1-trifluoromethylpentyl 6-benzyloxy-3,4-dihydro-2-naphthalenecarboxylate | C(C1=CC=CC=C1)OC=1C=C2CCC(=CC2=CC1)C(=O)OC(CCCC)C(F)(F)F | C24H25F3O3
reactant | iodotrimethylsilane | 0.7 mmol, 0.1 ml | I[Si](C)(C)C | C3H9ISi
solvent | methanol | 10 ml | CO | CH4O
product | (R)1-trifluoromethylpentyl 6-hydroxy-3,4-dihydro-2-naphthalenecarboxylate | 0.11 g, yield: 61% | OC=1C=C2CCC(=CC2=CC1)C(=O)O[C@H](CCCC)C(F)(F)F | C17H19F3O3
